US07202364B2
To a solution of 6-fluoro-2-naphthoic acid ethyl ester (600 mg, 2.75 mmol) in ethanol (10 mL) at room temperature, is added 1 N NaOH (2.75 mL, 2.75 mmol). After stirring at room temperature for 4 hours, water (10 mL) is added. Acidification (2 N HCl) and filtration gives 6-fluoro-2-naphthoic acid as a white solid.

reactant | 6-fluoro-2-naphthoic acid ethyl ester | 2.75 mmol, 600 mg | C(C)OC(=O)C1=CC2=CC=C(C=C2C=C1)F | C13H11FO2
reactant | NaOH | 2.75 mmol, 1 N, 2.75 mL | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-fluoro-2-naphthoic acid | FC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H7FO2
